US05801195
Methyl N-(3-methoxybenzoyl)-3-amino-3-(3',4'-dimethoxyphenyl)propionate.
To an ice bath stirred suspension of methyl 3-amino-3-(3',4'-dimethoxyphenyl)propionate hydrochloride (0.689 grams, 2.50 mmol) and 0.7 milliliters of triethylamine in 20 milliliters of anhydrous tetrahydrofuran was added 3-methoxybenzoyl chloride (2.5 mmol) via syringe. After 30 minutes, the reaction mixture was allowed to warm to room temperature and stirred for 1 hour. The reaction mixture was then treated with 20 milliliters of water. The tetrahydrofuran was removed in vacuo and the resulting mixture extracted with methylene chloride (2 times with 25 milliliters). The combined extracts were dried over sodium sulfate and contracted to afford a thick oil. The crude product was purified by flash chromatography (silica gel, 1.4/8.6 ethyl acetate/hexanes) to afford 0.5 grams (56%) as a pale green solid (wax): mp 123.5°-125° C.; 1H NMR (CDCl3 /TMS) δ 8.96 (d, J=7.9, 1 H), 8.19 (m, 1 H), 7.45 (m, 1 H), 7.12-6.68 (m, 5 H), 5.59 (m, 1 H), 4.00 (s, 3 H, OCH3), 3.87 (s, 3 H, OCH3), 3.85 (s, 3 H, OCH3), 3.63 (s, 3 H, OCH3), 2.96 (m, 2 H, CH2); 13C NMR (CDCl3 /TMS) δ 171.6, 164.4, 157.6, 148.9, 148.2, 133.8, 132.8, 132.3, 121.3, 121.2, 118.1, 111.3, 111.2, 109.9. 55.8, 55.8, 51.6, 49.7, 40.4; TLC (2/8 ehtyl acetate/hexanes, UV) Rf =0.26. Anal. Calcd for C20 H23NO6. Theory C, 64.33; H, 6.21; N, 3.75. Found C, 64.31; H, 6.25; N, 3.63.

reactant | methyl 3-amino-3-(3',4'-dimethoxyphenyl)propionate hydrochloride | 2.50 mmol, 0.689 grams | Cl.NC(CC(=O)OC)C1=CC(=C(C=C1)OC)OC
reactant | triethylamine | 0.7 milliliters | C(C)N(CC)CC | C6H15N
reactant | 3-methoxybenzoyl chloride | 2.5 mmol | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | water | 20 milliliters | O | H2O
solvent | tetrahydrofuran | 20 milliliters | O1CCCC1 | C4H8O
product | Methyl N-(3-methoxybenzoyl)-3-amino-3-(3',4'-dimethoxyphenyl)propionate | COC=1C=C(C(=O)NC(CC(=O)OC)C2=CC(=C(C=C2)OC)OC)C=CC1 | C20H23NO6
